US07084139B2
(2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid
tert-Butyl (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate (0.643 g) was dissolved in DCM (19 ml), and trifluoroacetic acid (19 ml) was added. The mixture was stirred at room temperature for 2.5 h and then concentrated under reduced pressure. Anhydrous DCM (4 ml) was added and the solution concentrated under reduced pressure. Repetitive addition of DCM and concentration under reduced pressure provided the title compound (0.56 g) as a white foam.

reactant | tert-Butyl (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate | 0.643 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O | C21H25ClN2O5S
reactant | trifluoroacetic acid | 19 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 19 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid | 0.56 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O | C17H17ClN2O5S
